US05294713
WORKING EXAMPLE 65 (S)-4-(4-Guanidinobenzoylglycyl)-3-(1-methylpropyl)-2-oxopiperazine-1-acetic acid hydrochloride
(S)-4-Glycyl-3-(1-methylpropyl)-2-oxopiperazine-1-acetic acid t-butyl ester hydrochloride obtained in Working Example 64 (364 mg) and 215 mg of 4-guanidino benzoic acid hydrochloride were subjected to substantially the same procedure as in Working Example 39 to afford 190 mg of the title compound as colorless powder.

reactant | (S)-4-Glycyl-3-(1-methylpropyl)-2-oxopiperazine-1-acetic acid t-butyl ester hydrochloride | Cl.C(C)(C)(C)OC(CN1C([C@@H](N(CC1)C(CN)=O)C(CC)C)=O)=O
reactant | 4-guanidino benzoic acid hydrochloride | 215 mg | Cl.N(C(=N)N)C1=CC=C(C(=O)O)C=C1
product | (S)-4-(4-Guanidinobenzoylglycyl)-3-(1-methylpropyl)-2-oxopiperazine-1-acetic acid hydrochloride | 190 mg | Cl.N(C(=N)N)C1=CC=C(C(=O)NCC(=O)N2[C@H](C(N(CC2)CC(=O)O)=O)C(CC)C)C=C1 | InChI=1S/C20H28N6O5.ClH/c1-3-12(2)17-19(31)25(11-16(28)29)8-9-26(17)15(27)10-23-18(30)13-4-6-14(7-5-13)24-20(21)22;/h4-7,12,17H,3,8-11H2,1-2H3,(H,23,30)(H,28,29)(H4,21,22,24);1H/t12?,17-;/m0./s1
